Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
Transfer from ___, tongue swelling 

 
Major Surgical or Invasive Procedure:
Intubation for airway protection ___
 
History of Present Illness:
___ yo M PMH HTN on lisinopril, who presented to ___ on 
evening of ___ with 2 or 3 hours of worsening tongue swelling. 
Only new recent med topical hydrocortisone last 2 weeks. No 
shortness of breath or itching but was having difficulty 
swallowing. Reported unclear h/o similar swelling at ___ 
requiring nasal intubation. Initial hx limited by difficulty 
speaking. EMS gave epi and 25 mg Benadryl without improvement. 
Noted to have inspiratory ___ and intubated. Epi was 
repeated in ___ with no improvement. Transferred to ___ as 
___ with no ICU beds, arrived intubated without any sedation 
awake and responding to commands. Put on propofol drip for 
sedation and transferred to ICU for further management.

 
Past Medical History:
HTN
CVA
SAH ___
CAD
BPH
Osteoporosis
Iron deficiency anemia 
L BKA
Chronic pain
h/o GIB s/p Billorth II gastrectomy with high grade dysplacia 
___
Gastrectomy c/b ischemic bowel, s/p resection and jejunostomy

 
Social History:
___
Family History:
Non-contributory 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: T:97.6 BP:123/89 P:74  R: 21  
GENERAL: Intubated and sedated, somewhat arousable to gentle 
shaking and name
___. Sclera anicteric, no appreciable lip swelling or 
tongue swelling. No palpable edema in neck
LUNGS: Mechanical breath sounds bilaterally
CV: Heart sounds faint. Regular rate and rhythm, normal S1 S2, 
no murmurs, rubs, gallops appreciated 
ABD: Well-healed vertical midline scar. Soft, non-tender, 
non-distended, bowel sounds present, no rebound tenderness or 
guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. L BKA  
SKIN:  No skin lesions or rashes noted
NEURO: Sedated but responsive to gentle shaking and his name 

DISCHARGE PHYSICAL EXAM:
GENERAL: Awake and alert, insistent on need to leave hospital
___. Sclera anicteric, no appreciable lip swelling or 
tongue swelling. No palpable edema in neck
LUNGS: CTAB
CV: Heart sounds faint. Regular rate and rhythm, normal S1 S2, 
no murmurs, rubs, gallops appreciated 
ABD: Well-healed vertical midline scar. Soft, non-tender, 
non-distended, bowel sounds present, no rebound tenderness or 
guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. L BKA  
SKIN:  No skin lesions or rashes noted
NEURO: A&O x3, CN II-XII grossly intact

 
Pertinent Results:
___ 03:20AM BLOOD WBC-6.5 RBC-2.88* Hgb-9.8* Hct-26.1* 
MCV-91 MCH-34.0* MCHC-37.5* RDW-16.3* RDWSD-54.1* Plt ___
___ 03:20AM BLOOD Neuts-95.3* Lymphs-2.5* Monos-1.5* 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-6.16* AbsLymp-0.16* 
AbsMono-0.10* AbsEos-0.00* AbsBaso-0.01
___ 03:20AM BLOOD ___ PTT-28.4 ___
___ 03:20AM BLOOD Plt ___
___ 08:21AM BLOOD Glucose-140* UreaN-13 Creat-0.6 Na-141 
K-4.2 Cl-107 HCO3-23 AnGap-15
___ 03:20AM BLOOD ALT-11 AST-26 AlkPhos-67 TotBili-0.3
___ 03:20AM BLOOD Calcium-7.8* Phos-2.2* Mg-1.7
___ 08:21AM BLOOD TotProt-5.3*
___ 03:20AM BLOOD C4-24.4
___ 08:21AM BLOOD PEP-PND
___ 08:23AM BLOOD C1 INHIBITOR-PND

___ CXR
Endotracheal tube terminates 5.4 cm above the carina.  
Cardiomediastinal and hilar contours are within normal limits.  
Clear lungs.  No pneumothorax. 
IMPRESSION:  
Endotracheal tube terminates 5.4 cm above the carina.  No 
pneumothorax. 

 
Brief Hospital Course:
___ yo M PMH HTN on lisinopril admitted for airway management in 
the setting of possible angioedema.

#Angioedema: Patient feels it was simply due biting his tongue, 
possible hematoma. No observable angioedema noted at ___, but 
___ felt he was experiencing angioedema. ___ be 
related to lisinopril despite taking chronically. ___ also be 
due to acquired C1 esterase inhibitor deficiency. Low anion gap 
with concern for possible multiple myeloma. No appreciable lip 
or tongue swelling.
-Extubated without complication the morning following admission
-Stopped home lisinopril, patient insisted on leaving AMA before 
workup could be completed. Discussed with him the risks of 
leaving and he was able to repeat the risks back to the team. 
Provided him with instructions verbally and written that he 
should not take lisinopril
-Ordered C1 inhibitor levels, still pending
-Ordered SPEP, still pending

#Hypertension: Takes amlodipine 10mg and lisinopril 40 mg at 
home
-Held home lisinopril and discussed with patient that he should 
not take lisinopril anymore
-Continue home amlodipine

#Anemia: h/o iron deficiency anemia, currently 9.8 on admission. 
No clinical signs of bleeding, baseline unknown. Concern for 
possible multiple myeloma leading to acquired C1 esterase 
inhibitor deficiency which could also be contributing to anemia.
-Continue home iron supplementation
-Follow-up SPEP results as above

Patient insisted on leaving AMA the morning following admission. 
Was assessed by multiple team members and found to have capacity 
and was able to verbalize the risks of leaving including death 
if his symptoms were to recur.

TRANSITIONAL ISSUES
====================
-Please follow up SPEP/UPEP for concern for MM given low anion 
gap and potential history of angioedema
-Please follow up workup of C1 esterase inhibitor as a cause of 
angioedema
-Recommended that he stop his lisinopril at this time given 
potential angioedema. Would not start ___ either at this time. 
Please follow up HTN as he will likely need a replacement 
medication
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cyanocobalamin 1000 mcg PO DAILY 
2. FoLIC Acid 1 mg PO DAILY 
3. Hydrocortisone Oint 2.5% 1 Appl TP 2 TIMES DAILY 
4. OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - Moderate 

5. Iron Polysaccharides Complex ___ mg PO DAILY 
6. Tamsulosin 0.4 mg PO DAILY 
7. Lisinopril 40 mg PO DAILY 
8. Oxazepam 10 mg PO QHS:PRN sleep or anxiety 
9. Aspirin 81 mg PO DAILY 
10. amLODIPine 10 mg PO DAILY 
11. Atorvastatin 20 mg PO DAILY 
12. Clotrimazole Cream 1 Appl TP BID 
13. Cyanocobalamin 1000 mcg IM/SC ONCE 
14. OxyCODONE SR (OxyconTIN) 10 mg PO Q12H 

 
Discharge Medications:
1.  amLODIPine 10 mg PO DAILY  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 20 mg PO DAILY  
4.  Clotrimazole Cream 1 Appl TP BID  
5.  Cyanocobalamin 1000 mcg PO DAILY  
6.  Cyanocobalamin 1000 mcg IM/SC ONCE Duration: 1 Dose  
7.  FoLIC Acid 1 mg PO DAILY  
8.  Hydrocortisone Oint 2.5% 1 Appl TP 2 TIMES DAILY  
9.  Iron Polysaccharides Complex ___ mg PO DAILY  
10.  Oxazepam 10 mg PO QHS:PRN sleep or anxiety  
11.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - 
Moderate  
12.  OxyCODONE SR (OxyconTIN) 10 mg PO Q12H  
13.  Tamsulosin 0.4 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Tongue Swelling

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the ICU because there was concern that your 
tongue was swelling and you could not breath well. We treated 
you with the breathing machine but were able to get you off the 
machine quickly.

We recommended that you stay in the hospital for at least one 
more day while we make sure that your tongue did not continue to 
swell but you decided to leave against medical advice.

Please understand that if you leave now, there is the risk that 
your toungue could swell and you could stop breathing and die.

Please stop taking lisinopril at this time. It may have been 
what caused your tongue to swell. Taking lisinopril could 
potentially cause your tongue to swell again, blocking your 
airway.

Please bring this paper to your PCP so that he or she knows what 
happened while you were hospitalized.

It was a pleasure taking care of you.

Sincerely,
Your ___ Team
 
Followup Instructions:
___